US08859580B2
1,2,3,4,9,9a-Hexahydro-indeno[2,1-b]pyridine-4-a-carboxylic acid methyl ester
NaN3 (0.44 g) is added to a solution of 1-(3-bromo-propyl)-2-oxo-indan-1-carboxylic acid methyl ester (2.06 g) in dimethylformamide (10 mL) at room temperature. The solution is stirred at room temperature for 4 h and then tBuOMe and ethyl acetate are added. The resulting mixture is washed with water and brine and dried (MgSO4). Most of the organic solvent is evaporated and tetrahydrofuran (10 mL), acetic acid (0.5 mL), and finally 10% Pd/C (150 mg) are added to the residue. The resulting mixture is shaken in hydrogen atmosphere (1 bar) at room temperature for 14 h. Then, the mixture is filtered, the filtrate is concentrated, and the residue is taken up in tBuOMe. The organic phase is washed with aqueous Na2CO3 solution and brine and dried (MgSO4). Then, the solvent is evaporated and the residue is dissolved in methanol (10 mL). To the solution is added acetic acid (0.5 mL) and 10% Pd/C (50 mg) and the resulting mixture is shaken under hydrogen atmosphere (1 bar) at room temperature for 6 h. Then, the mixture is filtered and the filtrate is concentrated under reduced pressure to give the crude title compound that is used without further purification.

reactant | NaN3 | 0.44 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-(3-bromo-propyl)-2-oxo-indan-1-carboxylic acid methyl ester | 2.06 g | COC(=O)C1(C(CC2=CC=CC=C12)=O)CCCBr | C14H15BrO3
reactant | tBuOMe | C(C)(C)(C)OC | C5H12O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1,2,3,4,9,9a-Hexahydro-indeno[2,1-b]pyridine-4-a-carboxylic acid methyl ester | COC(=O)C12C(NCCC1)CC=1C=CC=CC12 | C14H17NO2
